US08563541B2
Intermediate B-3: [4-(hydroxymethyl)cyclohexyl]acetonitrile
4-[(Vinyloxy)methyl]cyclohexylacetonitrile (0.9 g, 0.005 mol) was dissolved in dichloromethane (5 mL), and 1.5 mL of 4 N hydrogen chloride (0.22 g, 0.0060 mol) in dioxane was added with water (0.2 mL). The reaction was stirred for 30 min. and then concentrated to give the product as a 3:1 mixture of diastereomers, (0.75 g). 1H NMR (400 MHz, CDCl3): δ 3.451-3.467 d, 2H, J=6.4 Hz), 2.58 (br s, 1H), 2.271-2.288 (d, 2H, J=6.8 Hz), 1.85-1.93 (m, 4H), 1.2-1.8 (m, 4H), 0.95-1.19 (m, 4H) (major diastereomer).

reactant | 4-[(Vinyloxy)methyl]cyclohexylacetonitrile | 0.005 mol, 0.9 g | C(=C)OCC1CCC(CC1)CC#N | C11H17NO
reactant | hydrogen chloride | 0.0060 mol, 4 N, 1.5 mL, 0.22 g | Cl | ClH
reactant | water | 0.2 mL | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | [4-(hydroxymethyl)cyclohexyl]acetonitrile | OCC1CCC(CC1)CC#N | C9H15NO
